US06242474B1
Production of (E)-N-(n-pentanesulfonyl)-2-(2-(4-phenylphenyl)ethenyl)pyridine-4-carboxyamide
(E)-2-(2-(4-phenylphenyl)ethenyl)pyridine-4-carboxylic acid (277 mg) was dissolved in 2.8 ml of dried dimethylformamide, and 194 mg of carbonyldiimidazole was added thereto. The mixture was stirred at room temperature for 1.5 hours and then stirred at 100° C. for 30 minutes. After being cooled to room temperature, the mixture was mixed with 209 mg of pentanesulfonamide and 210 mg of 1,8-diazabicyclo[5.4.0]undec-7-ene and stirred at 100° C. for 48 hours. The reaction mixture was cooled with ice, and then its pH was adjusted to 5 using 1N hydrochloric acid. The resulting precipitate was collected by filtration and washed with water. The partially purified material thus obtained was further purified by silica-gel thin-layer chromatography (eluent, chloroform:methanol:water=65:25:4) to yield 67 mg of brown powder of (E)-N-(n-pentanesulfonyl)-2-(2-(4-phenylphenyl)ethenyl)pyridine-4-carboxyamide.

reactant | (E)-2-(2-(4-phenylphenyl)ethenyl)pyridine-4-carboxylic acid | 277 mg | C1(=CC=CC=C1)C1=CC=C(C=C1)/C=C/C1=NC=CC(=C1)C(=O)O | C20H15NO2
reactant | carbonyldiimidazole | 194 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | pentanesulfonamide | 209 mg | C(CCCC)S(=O)(=O)N | C5H13NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 210 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | dimethylformamide | 2.8 ml | CN(C=O)C | C3H7NO
product | (E)-N-(n-pentanesulfonyl)-2-(2-(4-phenylphenyl)ethenyl)pyridine-4-carboxyamide | 67 mg | C(CCCC)S(=O)(=O)NC(=O)CC1=CC(=NC=C1)\C=C\C1=CC=C(C=C1)C1=CC=CC=C1 | C26H28N2O3S
